US09382237B2
5-((4-hydroxybenzyl)amino)-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide (4.80 g) was suspended in 300 mL of MeOH and palladium on carbon (50% wet with water) (480 mg, 0.10 eq.) was then added to the reaction vessel. The reaction was then purged and stirred under hydrogen pressure at room temperature for 18 hrs. or until no starting material is present and confirmed via HPLC. Once complete Celite was stirred into the reaction vessel, filtered through Celite and washed with additional MeOH. The MeOH was then evaporated off via vacuo and triturated with ethyl acetate and hexanes to yield 3-((4-aminophenyl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide as a light purple powder collected via filtration (1.60 g, 36% yield).

reactant | 5-((4-hydroxybenzyl)amino)-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide | 4.80 g | OC1=CC=C(CNC2=C(C(=NN2)NC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N)C=C1 | C17H16N6O4
solvent | MeOH | 300 mL | CO | CH4O
catalyst | palladium on carbon | 480 mg, 0.10 eq. | [Pd] | Pd
product | 3-((4-aminophenyl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide | 36% yield | NC1=CC=C(C=C1)NC1=NNC(=C1C(=O)N)NCC1=CC=C(C=C1)O | C17H18N6O2
